US06011127
In accordance with the method described in Synth. Commun., 10,905 (1980), bis(tert-butyl)chromate was synthesized by reaction of chromium trioxide with tert-butanol.

reactant | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
product | bis(tert-butyl)chromate | C(C)(C)(C)O[Cr](=O)(=O)OC(C)(C)C | InChI=1S/2C4H9O.Cr.2O/c2*1-4(2,3)5;;;/h2*1-3H3;;;/q2*-1;+2;;
